US07452893B2
Step 4: cis-[3-(Methoxy-methyl-carbamoyl)-cyclobutyl]-acetic acid
To an ice cold solution of 2 g of cis-[3-(methoxy-methyl-carbamoyl)-cyclobutyl]-acetic acid tert-butyl ester in 25 mL of dichloromethane was added 10 mL of trifluoroacetic acid. The mixture was allowed to warm and stir for 2 h then concentrated under reduced pressure. The residue was taken up in 3×50 mL of toluene and repeatedly concentrated under reduced pressure to remove trifluoroacetic acid. Drying under vacuum overnight gave 1.6 g of product as a colorless oil: MS (m+1)=202.3; 1H NMR (400 MHz, CDCl3) 9.0 (br s, 1H), 3.62 (s, 3H), 3.18 (s, 3H), 2.65 (m, 1H), 2.5 (overlapping d and m, 3H), 2.4 (dd, 1H), 2.0 (, m, 2H).

reactant | cis-[3-(methoxy-methyl-carbamoyl)-cyclobutyl]-acetic acid tert-butyl ester | 2 g | C(C)(C)(C)OC(C[C@@H]1C[C@@H](C1)C(N(C)OC)=O)=O | C13H23NO4
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | cis-[3-(Methoxy-methyl-carbamoyl)-cyclobutyl]-acetic acid | 1.6 g | CON(C(=O)[C@H]1C[C@H](C1)CC(=O)O)C | C9H15NO4
